US06017919
1-Bromo-4-pentyloxynaphthalene-2-carboxylic acid (400 mg, 1.19 mmol) and tetrahydrofuran (THF, 3 ml) were mixed in a reaction vessel replaced with argon, and this solution was cooled to -78° C. A hexane solution (1.6M, 1.63 ml) of n-butyllithium (2.61 mmol) was added, and the mixture was stirred for 1 hour. Water (0.5 ml) and saturated brine (2 ml) were added, and the aqueous layer was extracted 4 times with ethyl acetate (5 ml). The organic layers were combined and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (hexane/ethyl acetate=3/1-1/2) to give 4-pentyloxynaphthalene-2-carboxylic acid (149.6 mg, 49%) as colorless crystals.

reactant | 1-Bromo-4-pentyloxynaphthalene-2-carboxylic acid | 1.19 mmol, 400 mg | BrC1=C(C=C(C2=CC=CC=C12)OCCCCC)C(=O)O | C16H17BrO3
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | hexane | 1.6M, 1.63 ml | CCCCCC | C6H14
reactant | n-butyllithium | 2.61 mmol | C(CCC)[Li]
solvent | brine | 2 ml | [Cl-].[Na+].O
solvent | Water | 0.5 ml | O | H2O
product | 4-pentyloxynaphthalene-2-carboxylic acid | 149.6 mg, 49% | C(CCCC)OC1=CC(=CC2=CC=CC=C12)C(=O)O | C16H18O3
